US05175157
3-[(N-(2-(4-Methoxy-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7,8-methylenedioxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride
Prepared from 3-[(piperidin-3-yl)-methyl]-7,8-methylenedioxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one and 2-(4-methoxyphenyl)-ethylchloride in dimethyl-formamide/potassium carbonate at 120° C. analogously to Example 1.

reactant | 3-[(piperidin-3-yl)-methyl]-7,8-methylenedioxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | N1CC(CCC1)CN1CCC2=C(CC1=O)C=C1C(=C2)OCO1 | C17H22N2O3
reactant | 2-(4-methoxyphenyl)-ethylchloride | COC1=CC=C(C=C1)CCCl | C9H11ClO
solvent | dimethyl-formamide potassium carbonate | CN(C=O)C.C([O-])([O-])=O.[K+].[K+]
product | 3-[(N-(2-(4-Methoxy-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7,8-methylenedioxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride | Cl.COC1=CC=C(C=C1)CCN1CC(CCC1)CN1CCC2=C(CC1=O)C=C1C(=C2)OCO1 | InChI=1S/C26H32N2O4.ClH/c1-30-23-6-4-19(5-7-23)8-11-27-10-2-3-20(16-27)17-28-12-9-21-13-24-25(32-18-31-24)14-22(21)15-26(28)29;/h4-7,13-14,20H,2-3,8-12,15-18H2,1H3;1H
